US05025025
A solution of 1.62 mL (22.73 mmol) of dimethylsulfoxide in 60 mL dry methylene chloride is cooled to -78° C. and 1.44 mL (16.53 mmol) oxalyl chloride is added dropwise. The mixture is stirred 0.5 hour at -78° C. and a solution of 1.0 g (3.31 mmol) of 1-(3-pyridyl)-4-hydroxy-8-(2-tetrahydropyranyloxy)octane in 15 mL dry methylene chloride is added and the mixture is stirred for 10 minutes at -78° C. The mixture is warmed to -60° C. and maintained for 15 minutes at that temperature. The reaction is quenched by the addition of 6.9 mL triethylamine. The cold bath is removed and the reaction allowed to warm to room temperature. The reaction mixture is extracted with 150 mL methylene chloride and washed with saturated sodium bicarbonate solution. The organic phase is dried, filtered, concentrated and chromatographed using 3:2 ethyl acetate, hexane to yield 1-(3-pyridyl)-4-oxo-8-(2-tetrahydropyranyloxy)octane; NMR (CDCl3): delta 2.6 (t,2H), 2.4 (t,4H).

reactant | dimethylsulfoxide | 22.73 mmol, 1.62 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 16.53 mmol, 1.44 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(3-pyridyl)-4-hydroxy-8-(2-tetrahydropyranyloxy)octane | 3.31 mmol, 1.0 g | N1=CC(=CC=C1)CCCC(CCCCOC1OCCCC1)O | C18H29NO3
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-pyridyl)-4-oxo-8-(2-tetrahydropyranyloxy)octane | N1=CC(=CC=C1)CCCC(CCCCOC1OCCCC1)=O | C18H27NO3
